US06538010B1
To a stirred solution of nickel (II) acetate tetrahydrate (161 g, 647 mmol) in ethanol (400 mL) was added dropwise a solution of sodium borohydride (24.6 g, 1.54 mol) in ethanol (500 mL). This mixture was cooled to 0° C. and a solution of 7-tert-Butoxycarbonyl-2-p-tolylsulfonyl-7-azabicyclo[2.2.1]-hepta-2,5-diene (44.49 g, 128 mmol) in THF (300 mL) was added. Concentrated HCl (100 mL) was next added and the mixture allowed to stir overnight. After quenching the reaction with sodium bicarbonate, the mixture was filtered over a celite pad and extracted several times with ethyl acetate. The combined organic layers were dried with sodium sulfate, concentrated, then purified by flash chromatography with 4:1 hexane:ethyl acetate to give 7-tert-Butoxycarbonyl-2-p-tolylsulfonyl-7-azabicyclo[2.2.1]-hepta-2-ene (32.57 g, 73%) as a colorless solid.

reactant | sodium borohydride | 1.54 mol, 24.6 g | [BH4-].[Na+]
reactant | 7-tert-Butoxycarbonyl-2-p-tolylsulfonyl-7-azabicyclo[2.2.1]-hepta-2,5-diene | 128 mmol, 44.49 g | C(C)(C)(C)OC(=O)N1C2C(=CC1C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C18H21NO4S
reactant | HCl | 100 mL | Cl | ClH
solvent | ethanol | 400 mL | C(C)O | C2H6O
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
catalyst | nickel (II) acetate tetrahydrate | 647 mmol, 161 g | O.O.O.O.C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
product | 7-tert-Butoxycarbonyl-2-p-tolylsulfonyl-7-azabicyclo[2.2.1]-hepta-2-ene | 32.57 g, 73% | C(C)(C)(C)OC(=O)N1C2C(=CC1CC2)S(=O)(=O)C2=CC=C(C=C2)C | C18H23NO4S
